US06812295B2
Preparation of 2-(3-Chloropropyl)-5,5-dimethyl-2-methyl-1,3-dioxane
A one liter, round bottom flask is equipped with a magnetic stir bar, a Dean-Stark water separator, a reflux condenser and a nitrogen inlet. This apparatus is dried in an oven overnight at 120° C., assembled hot, and is allowed to cool to room temperature in a stream of nitrogen. The flask is charged with 144.70 grams (1.20 moles) of 5-chloro-2-pentanone, 185.00 grams (1.32 moles) of 2,2-dimethyl-1,3-propandiol, 300 ml of toluene and 0.05 grams of p-toluenesulfonic acid catalyst. The flask is placed in a heating mantle and the reaction mixture is heated to reflux until close to the theoretical amount of water (21.6 ml) is collected in the Dean-Stark trap. The reaction mixture is allowed to cool to room temperature, transferred to a separatory funnel and washed with 200 ml portions of saturated sodium bicarbonate solution, and three times with water. The resulting organic layer is separated, dried over anhydrous potassium carbonate, filtered, and concentrated under reduced pressure on a rotary evaporator. This affords a clear, pale yellow oil, which is employed in the subsequent reactions without further purification.

reactant | 5-chloro-2-pentanone | 1.20 moles, 144.70 grams | ClCCCC(C)=O | C5H9ClO
reactant | 2,2-dimethyl-1,3-propandiol | 1.32 moles, 185.00 grams | CC(CO)(CO)C | C5H12O2
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 0.05 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | 21.6 ml | O | H2O
product | 2-(3-Chloropropyl)-5,5-dimethyl-2-methyl-1,3-dioxane | ClCCCC1(OCC(CO1)(C)C)C | C10H19ClO2
